US09034882B2
To a solution of methyl 2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate (56 mg, 0.137 mmol) in t-butylacetate (2 ml, 0.137 mmol) was added anhydrous DCM (Volume: 2 ml) followed by perchloric acid (0.012 ml, 0.205 mmol). The resulting mixture was stirred at r.t for 1 h. Diluted with EtOAc, washed with sat'd NaHCO3. The organic phase was dried and evaporated to an oil, which was purified by Pre-HPLC to afford methyl 2-tert-butoxy-2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetate (25 mg, 0.053 mmol, 38.5% yield). 1H-NMR (400 MHz, CDCl3) δ 1.16 (6H, s), 1.26 (9H, s), 1.58-1.60 (2H, m), 1.69-1.73 (2H, m), 2.69 (3H, s), 3.77 (3 H, s), 5.87 (1 H, s), 7.49-7.53 (3 H, m), 8.35-8.37 (2 H, m).

reactant | methyl 2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 0.137 mmol, 56 mg | CC1(CCN(CC1)C1=C(C(=NC=2N1N=C(N2)C2=CC=CC=C2)C)C(C(=O)OC)O)C | C22H27N5O3
reactant | t-butylacetate | 0.137 mmol, 2 ml | C(C)(C)(C)OC(C)=O | C6H12O2
reactant | DCM | 2 ml | C(Cl)Cl | CH2Cl2
reactant | perchloric acid | 0.205 mmol, 0.012 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 2-tert-butoxy-2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetate | 0.053 mmol, 25 mg, 38.5% yield | C(C)(C)(C)OC(C(=O)OC)C=1C(=NC=2N(C1N1CCC(CC1)(C)C)N=C(N2)C2=CC=CC=C2)C | C26H35N5O3
